US07208493B2
6-(Benzylamino-methyl)-2,4-pteridinediamine
To a solution of 6-bromomethyl-2,4-pteridinediamine hydrobromide (35.7 mg, 0.106 mmol) in anhydrous N,N dimethylacetamide was added benzylamine (28.6 ul, 0.212 mmol). The reaction mixture was stirred at 50° C. overnight. The crude product was poured into saturated bicarbonate solution. The resulted precipitate was collected and purified by preparative HPLC. 17.7 mg product was obtained. Yield: 62%; 1H NMR (500 MHz, DMSO-d6): δ 4.30499(s, 2H), 4.51599(s, 2H), 7.42787–7.47298(m, 3H), 7.50007–7.51927 (m, 2H), 8.87751(s, 1H); ESI-MS: m/z 282 (M++1)

reactant | 6-bromomethyl-2,4-pteridinediamine hydrobromide | 0.106 mmol, 35.7 mg | Br.BrCC=1N=C2C(=NC(=NC2=NC1)N)N
reactant | benzylamine | 0.212 mmol, 28.6 ul | C(C1=CC=CC=C1)N | C7H9N
reactant | bicarbonate | C([O-])(O)=O
solvent | N,N dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 6-(Benzylamino-methyl)-2,4-pteridinediamine | 17.7 mg, Yield: 62% | C(C1=CC=CC=C1)NCC=1N=C2C(=NC(=NC2=NC1)N)N | C14H15N7
